** 6 Sectors Space Vector Modulation
* Inputs: Space vector (V⍺+Vβ) and  modulation index
*   Note 1: Modulation index must be less than or equal to ~ 0.866 to avoid over modulation
* Outputs: Modulation signals to be fed into a three phases PWM generator to drive an inverter
*
*               ________________
*     V⍺ ----->|  Space Vector  | ---> SHB1
*     Vβ ----->|   Modulation   | ---> SHB2
*     mi ----->|________________| ---> SHB3

* https://www.google.com/url?sa=t&rct=j&q=&esrc=s&source=web&cd=&ved=2ahUKEwinp9yK5qX2AhV-rJUCHaQSDIAQFnoECFgQAQ&url=https%3A%2F%2Fwww.st.com%2Fresource%2Fen%2Fapplication_note%2Fan2154-space-vector-modulation-using-8bit-st7mc-microcontroller-and-st7mckitbldc-starter-kit-stmicroelectronics.pdf&usg=AOvVaw2_oNRwX-T-G2FrGmWD9Hb8

.subckt SVM6 Valpha Vbeta mi  SHB1 SHB2 SHB3  fs=1k
    .param c2_r3 = 2/sqrt(3)
    .param pi_3 = 1.0471975511965976
    .param pi_2 = 1.5707963267948966
    .param pi_4 = 0.7853981633974483
    .param pi = 3.141592653589793
    .param pi2 = 6.283185307179586
    .param Ttot = 1/fs

    .func Vab() = {sqrt(v(Valpha)**2 + v(Vbeta)**2)}
    .func ang() = {atan(-v(Valpha)/v(Vbeta)) >= 0 ? 2*atan(-v(Valpha)/v(Vbeta)) : pi2+2*atan(-v(Valpha)/v(Vbeta))};{4*(atan(-v(Valpha)/v(Vbeta))+ 0)}; {v(Valpha) >= 0 && v(Vbeta) <= 0 ? -atan(v(Valpha)/v(Vbeta)) : 0}
    .func ta(ang) = {c2_r3 * Ttot * v(mi) * sin(pi_3 - v(angle))}
    .func tb(ang) = {}
    .func t0(ang) = {Ttot - ta(ang) - tb(ang)}

    bAngle      angle       gnd         v = ang()
    bSector     sector      gnd         v = floor(v(angle)/pi_3)


    bSHB1       SHB1        gnd         v = {v(sector)}
    bSHB2       SHB2        gnd         v = v(angle)
.ends SVM6



* TEST

.param omega = 314
.param pi_2 = 1.5707963267948966
Balpha      A           gnd         v = sin(omega*time)
Bbeta       B           gnd         v = sin(omega*time - pi_2)
Vmodind     mi          gnd         dc 0.8
xSVM        A           B           mi     SHB1 SHB2 SHB3     SVM6


.tran 10u 100m uic

.control
    run
    plot A B
    plot SHB1 SHB2
.endc